US06610704B1
Preparation of N3-(4-Methoxybenzoyl)-N4-[1-(4-pyridyl)piperidin-4-ylmethyl]-3,4-pyridinediamine
Using a similar procedure to that described in Example 2, Part D, N4-[1-(4-pyridyl)piperidin-4-ylmethyl]-3,4-pyridinediamine (110 mg, 0.388 mmol) and 4-methoxybenzoyl chloride (0.66 mL, 0.388 mmol) yielded 10 mg (6%) of the title compound as a hydrochloride salt.

reactant | N4-[1-(4-pyridyl)piperidin-4-ylmethyl]-3,4-pyridinediamine | 0.388 mmol, 110 mg | N1=CC=C(C=C1)N1CCC(CC1)CNC1=C(C=NC=C1)N | C16H21N5
reactant | 4-methoxybenzoyl chloride | 0.388 mmol, 0.66 mL | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | N3-(4-Methoxybenzoyl)-N4-[1-(4-pyridyl)piperidin-4-ylmethyl]-3,4-pyridinediamine | 10 mg, 6% | COC1=CC=C(C(=O)NC=2C=NC=CC2NCC2CCN(CC2)C2=CC=NC=C2)C=C1 | C24H27N5O2
